US05804601
Potassium tert-butoxide (2.14 g) was added gradually to a solution of 2-quinolinecarbaldehyde (2.0 g) and 1-(4-ethoxycarbonyl)butyltriphenylphosphonium bromide (9.0 g) in DMSO (18 ml), and the mixture was stirred at room temperature for 30 minutes. This reaction mixture was poured into iced water and extracted with ether. The ether layer was washed with saturated aqueous sodium chloride solution twice and dried over anhydrous sodium sulfate. The solvent was then distilled off and the crude residue was purified by silica gel column chromatography (hexane-ethyl acetate=10:1) to provide 0.65 g of ethyl (E)-6-(2-quinolyl)-5-hexenoate and 1.45 g of a mixture of (E) and (Z) compounds, both as oil.

reactant | Potassium tert-butoxide | 2.14 g | CC(C)([O-])C.[K+]
reactant | 2-quinolinecarbaldehyde | 2.0 g | N1=C(C=CC2=CC=CC=C12)C=O | C10H7NO
reactant | water | O | H2O
solvent | DMSO | 18 ml | CS(=O)C | C2H6OS
product | ethyl (E)-6-(2-quinolyl)-5-hexenoate | 0.65 g | N1=C(C=CC2=CC=CC=C12)/C=C/CCCC(=O)OCC | C17H19NO2
